US04521419
1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester, m.p. 153°-154° C. (5 g) in methanol (300 ml) containing 6.45 g of sodium methoxide was reacted with 10.9 g of benzaldehyde under stirring at reflux temperature for 96 hours. After cooling and concentration in vacuo to a small volume the precipitate was filtered and treated with acetic acid and then with water; the crude compound was recovered by filtration, washed with water until neutral and crystallized from CH2Cl2 /methanol and then from dioxane to give 3.25 g of 3-benzylidene-1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid, m.p. 309°-310° C., NMR (CF3COOD) δ ppm: 3.44 (m) (4H, cyclopentane protons), 7.68 (m) (6H, =CH-- and phenyl protons), 8.44 (d) (1H, C-5 proton), 9.15 (d.d) (1H, C-6 proton), 10.23 (d) (1H, C-8 proton).

reactant | 1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester | COC(=O)C=1C=CC=2N(C(C3=C(N2)CCC3)=O)C1 | C13H12N2O3
reactant | sodium methoxide | 6.45 g | C[O-].[Na+]
reactant | benzaldehyde | 10.9 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 300 ml | CO | CH4O
product | 3-benzylidene-1,2,3,10-tetrahydro-10-oxo-cyclopenta[d]pyrido[1,2-a]pyrimidine-7-carboxylic acid | 3.25 g | C(C1=CC=CC=C1)=C1CCC2=C1N=C1N(C2=O)C=C(C=C1)C(=O)O | C19H14N2O3
